US06235771B1
In 1,2-dimethoxyethane (20 ml) and 6N hydrochloric acid (6.7 ml) was dissolved methyl 7-[(4-butylthio)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (670 mg), and the mixture was stirred at 100° C. for 16 hours, cooled to room temperature, extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 7-[(4-butylthio)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (620 mg).

reactant | methyl 7-[(4-butylthio)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 670 mg | CCCCSC1=C(C=CC=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C22H24O4S2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | hydrochloric acid | 6N, 6.7 ml | Cl | ClH
product | 7-[(4-butylthio)phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 620 mg | CCCCSC1=C(C=CC=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C21H22O4S2
